US07250535B2
In a 300 ml four-necked flask thoroughly purged with nitrogen, 18.1 g (0.1 mol) of di-tert-butylphosphinous chloride, 0.28 g (0.002- mol (corresponding to 2% by mol)) of copper(I) bromide and 60 ml of tetrahydrofuran were placed. To the contents of the flask, 55 ml (0.11 mol) of a tetrahydrofuran solution of ethylmagnesium chloride having a concentration of 2 mol/liter was dropwise added over a period of 1 hour with maintaining the temperature at 25° C. to 30° C. After the dropwise addition was completed, stirring was conducted at the same temperature for 2 hours. After the temperature of the reaction solution was returned to room temperature, disappearance of di-tert-butylphosphinous chloride was confirmed by gas chromatography. Thereafter, 50 ml of toluene and 30 ml of a 5% sulfuric acid aqueous solution were added to the reaction solution to perform liquid separation. Then, the organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, followed by further distillation. Then, fractions given by distillation at 92° C. to 95° C. under reduced pressure of 20 Torr were collected. As a result, 15.7 g (purity: 98.0%) of the aimed di-tert-butylethylphosphine was obtained as an oily substance. The yield was 88.2%.

reactant | di-tert-butylphosphinous chloride | 0.1 mol, 18.1 g | C(C)(C)(C)P(C(C)(C)C)Cl | C8H18ClP
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.11 mol, 55 ml | O1CCCC1 | C4H8O
reactant | ethylmagnesium chloride | C(C)[Mg]Cl
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | copper(I) bromide | 0.28 g | [Cu]Br
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | di-tert-butylethylphosphine | 15.7 g, yield was 88.2% | C(C)(C)(C)P(CC)C(C)(C)C | C10H23P
